US06265411B1
A solution of 6-methoxy-3-((pivaloyloxy)methyl)-7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one (500 mg, 1.26 mmol) in saturated methanolic ammonia (10 ml) was stirred for 20 hours at ambient temperature. The volatiles were removed by evaporation, the solid residue was triturated with ether, collected by filtration and dried under vacuum to give 6-methoxy-7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one (330 mg, 92%).

reactant | 6-methoxy-3-((pivaloyloxy)methyl)-7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one | 1.26 mmol, 500 mg | COC=1C=C2C(N(C=NC2=CC1OCC1=CC=NC=C1)COC(C(C)(C)C)=O)=O | C21H23N3O5
solvent | ammonia | 10 ml | N | H3N
product | 6-methoxy-7-(4-pyridylmethoxy)-3,4-dihydroquinazolin-4-one | 330 mg, 92% | COC=1C=C2C(NC=NC2=CC1OCC1=CC=NC=C1)=O | C15H13N3O3
